US07759373B2
Under argon atmosphere, to a solution of 2-(4-fluoro-phenyl)-4-(2-hydroxyethyl)-5-(3-thienyl)oxazole (300 mg) in methylene chloride (10 ml) were successively added methane-sulfonyl chloride (96 μl) and triethylamine (188 μl) under ice-cooling, and the mixture was stirred at room temperature for 3 hours. The reaction mixture was poured into water and extracted with methylene chloride. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure to obtain a crude product of 2-(4-fluorophenyl)-4-(2-methanesulfonyloxyethyl)-5-(3-thienyl)oxazole.

reactant | 2-(4-fluoro-phenyl)-4-(2-hydroxyethyl)-5-(3-thienyl)oxazole | 300 mg | FC1=CC=C(C=C1)C=1OC(=C(N1)CCO)C1=CSC=C1 | C15H12FNO2S
reactant | methane-sulfonyl chloride | 96 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 188 μl | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-fluorophenyl)-4-(2-methanesulfonyloxyethyl)-5-(3-thienyl)oxazole | FC1=CC=C(C=C1)C=1OC(=C(N1)CCOS(=O)(=O)C)C1=CSC=C1 | C16H14FNO4S2
